US08871766B2
C) 2-(pyrimidin-4-yl)benzoic acid hydrochloride
A mixture of methyl 2-(pyrimidin-4-yl)benzoate (0.49 g), acetic acid (2.0 mL) and 6 N hydrochloric acid (10 mL) was heated under reflux for 5 hr. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate to give the title compound (0.45 g).

reactant | methyl 2-(pyrimidin-4-yl)benzoate | 0.49 g | N1=CN=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C12H10N2O2
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 2-(pyrimidin-4-yl)benzoic acid hydrochloride | 0.45 g | Cl.N1=CN=C(C=C1)C1=C(C(=O)O)C=CC=C1 | InChI=1S/C11H8N2O2.ClH/c14-11(15)9-4-2-1-3-8(9)10-5-6-12-7-13-10;/h1-7H,(H,14,15);1H
